US04465834
Preparation of 3-Quinuclidyl α-Cyclohexyl-α-phenylethynyl-glycolate
3-Quinuclidinol (2.5 g., 0.020 mole) was dissolved in 50 ml. of toluene and a small piece of sodium (~0.05 g.) was added. The toluene was refluxed for about 40 minutes until all the sodium had reacted. Ethyl α-cyclohexyl-α-phenylethynylglycolate (4.3 g., 0.015 mole) was subsequently added as a solution in 35 ml. of toluene, over an hour period, to the refluxing reaction mixture. The reaction mixture was refluxed for an additional 20 hours. During the last four hours about 40 ml. of solvent was distilled over. The reaction mixture was then worked-up as described previously. The basic chloroform extract yielded 4.0 g. of an oil, which partially crystallized upon the addition of anhydrous ether. A total of 1.6 g. (27%) of crude product was obtained. Recrystallization from hexane gave analytically pure material, m.p. 171°-172°.

reactant | 3-Quinuclidinol | 0.020 mole, 2.5 g | N12CC(C(CC1)CC2)O | C7H13NO
reactant | sodium | ~0.05 g | [Na] | Na
reactant | Ethyl α-cyclohexyl-α-phenylethynylglycolate | 0.015 mole, 4.3 g | C1(CCCCC1)C(C(=O)OCC)(O)C#CC1=CC=CC=C1 | C18H22O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-Quinuclidyl α-Cyclohexyl-α-phenylethynyl-glycolate | 27% | C1(CCCCC1)C(C(=O)OC1CN2CCC1CC2)(O)C#CC2=CC=CC=C2 | C23H29NO3
